US09328124B2
2-(Diallylamino)-1-(3-pyridyl)ethanone
2-Bromo-1-(3-pyridyl)ethanone hydrobromide (10 g, 23.49 mmol) is added portion wise over 5 minutes to a stirred solution of diallylamine (5.2 mL, 42.29 mmol) and diisopropylethylamine (10.24 mL, 58.73 mmol) in tetrahydrofuran (150 mL) at 0° C. The resulting mixture is stirred at 0° C. for 1 hour. The reaction is quenched by addition of a saturated aqueous solution of sodium bicarbonate (100 mL) and dichloromethane (300 mL). The layers are separated and the aqueous phase is re-extracted with dichloromethane (300 mL). The combined organic layers are dried over magnesium sulfate and the solvents are removed under reduced pressure to give a crude product which is purified by silica gel column chromatography using a 0-5% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title compound (4.75 g, 93%). ES/MS (m/e): 217 (M+1).

reactant | 2-Bromo-1-(3-pyridyl)ethanone hydrobromide | 23.49 mmol, 10 g | Br.BrCC(=O)C=1C=NC=CC1
reactant | diallylamine | 42.29 mmol, 5.2 mL | C(C=C)NCC=C | C6H11N
reactant | diisopropylethylamine | 58.73 mmol, 10.24 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2-(Diallylamino)-1-(3-pyridyl)ethanone | 4.75 g, 93% | C(C=C)N(CC(=O)C=1C=NC=CC1)CC=C | C13H16N2O
